.lib ${pdk_root}/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_${corner}
.include submission.spice
.temp ${temperature}
VIREF iref 0 0.75
VOUT out 0 1.0
XDUT iref out 0 cascode_current_mirror
.control
op
let reference_current=abs(i(VIREF))
let output_current=abs(i(VOUT))
let current_error=abs(output_current-reference_current)/max(reference_current,1e-15)
echo reference_current $$&reference_current > results.data
echo output_current $$&output_current >> results.data
echo current_error $$&current_error >> results.data
quit
.endc
.end
